US07741341B2
(i) 2-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester
A solution of 69.4 mg (0.236 mmol) methyl-2-trichloromethyl-1H-benzoimidazole-4-carboxylate in 2 mL THF were slowly added to a mixture containing 50 mg (0.26 mmol) 4-(4-amino-phenyl)-morpholin-3-one, 220 mg (2.62 mmol) NaHCO3, 8 mL THF and 3 mL H2O. The mixture was stirred vigorously for 3 h at room temperature, diluted with 50 mL CH2Cl2 and washed with 30 mL of a saturated NaHCO3-solution. The aqueous solution was extracted with 50 mL CH2Cl2 and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give a brown solid, which was pure enough for the following reactions.

reactant | methyl-2-trichloromethyl-1H-benzoimidazole-4-carboxylate | 0.236 mmol, 69.4 mg | COC(=O)C1=CC=CC=2NC(=NC21)C(Cl)(Cl)Cl | C10H7Cl3N2O2
reactant | 4-(4-amino-phenyl)-morpholin-3-one | 0.26 mmol, 50 mg | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
reactant | NaHCO3 | 2.62 mmol, 220 mg | C(=O)(O)[O-].[Na+]
reactant | H2O | 3 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2NC(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O | C20H18N4O5
